US08053438B2
STEP 3: (1H-BENZO[D]IMIDAZOL-2-YL)(4-(3-(4-FLUOROTETRAHYDRO-2H-PYRAN-4-YL)PYRAZIN-2-YLOXY)PHENYL)METHANONE
A solution of (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (0.543 g, 2.278 mmol),2-fluoro-3-(4-fluorotetrahydro-2H-pyran-4-yl)pyrazine (0.304 g, 1.519 mmol), cesium carbonate (0.990 g, 3.04 mmol), and N-Methyl-2-pyrrolidinone (3.04 mL) in a sealed tube was heated to 100° C. overnight. Aqueous work up with DCM and washing with alternating water and brine washes. The organic layer was rotovapped and loaded onto a Biotage samplet. Purification by Biotage (0-100% EtOAc/hexane, slow gradient, over 12 CV). The product containing fractions were concentrated by rotovap. The residue was further purified by trituration with EtOH at room temperature overnight to produce product. MS (ESI, pos. ion) m/z: 419.1 (M+1). IC50 (uM) +++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 2.278 mmol, 0.543 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | 2-fluoro-3-(4-fluorotetrahydro-2H-pyran-4-yl)pyrazine | 1.519 mmol, 0.304 g | FC1=NC=CN=C1C1(CCOCC1)F | C9H10F2N2O
reactant | cesium carbonate | 3.04 mmol, 0.990 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N-Methyl-2-pyrrolidinone | 3.04 mL | CN1C(CCC1)=O | C5H9NO
product | (1H-BENZO[D]IMIDAZOL-2-YL)(4-(3-(4-FLUOROTETRAHYDRO-2H-PYRAN-4-YL)PYRAZIN-2-YLOXY)PHENYL)METHANONE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C2(CCOCC2)F | C23H19FN4O3
